US06284764B1
4,6-Dichloro-pyrido[3,4-d]pyrimidine:
DMF (0.1 ml) was added to 6chloro-3H-pyrido[3,4-d]pyrimidin-4-one (1.82 g, 10 mmol) followed by dropwise addition of thionyl chloride (10 ml). The flask was fitted with a condenser and a drylng tube and the contents heated to reflux for ˜20 minutes whereupon the solids dissolved. The heating was continued for a further 1 h and then cooled. Toluene was added to wash the sides of the flask and the solvents were evaporated in vacuo. Azeotroping with toluene was repeated twice and the crude so obtained was taken through to the next step.

reactant | DMF | 0.1 ml | CN(C)C=O | C3H7NO
reactant | 6chloro-3H-pyrido[3,4-d]pyrimidin-4-one | 10 mmol, 1.82 g | ClC1=CC2=C(N=CNC2=O)C=N1 | C7H4ClN3O
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
solvent | Toluene | C1(=CC=CC=C1)C | C7H8
product | 4,6-Dichloro-pyrido[3,4-d]pyrimidine | ClC=1C2=C(N=CN1)C=NC(=C2)Cl | C7H3Cl2N3
